* File: LSGCPX2.pex.netlist.pex
* Created: Tue Jul  4 08:08:52 2017
* Program "Calibre xRC"
* Version "v2017.2_28.22"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_LSGCPX2_D_VDD 1 4 8 14 18 22 26 31 56 57 58 59 60 61
c59 61 0 0.239289f
c60 60 0 0.144176f
c61 59 0 0.158381f
c62 58 0 0.143164f
c63 57 0 0.156828f
c64 56 0 0.23178f
c65 49 0 0.0701213f
c66 44 0 0.0701213f
c67 39 0 0.0701213f
c68 37 0 0.0701213f
c69 26 0 0.266627f
c70 22 0 0.263087f
c71 18 0 0.282958f
c72 14 0 0.459474f
c73 8 0 0.530969f
c74 4 0 0.545669f
c75 1 0 0.332221f
r76 48 61 0.17
r77 48 49 0.0120155
r78 45 60 0.17
r79 43 59 0.17
r80 43 44 0.0120155
r81 40 58 0.17
r82 38 57 0.17
r83 38 39 0.0120155
r84 36 56 0.306944
r85 36 37 0.0120155
r86 32 49 0.0329425
r87 26 49 0.0329425
r88 26 31 0.03825
r89 18 44 0.0329425
r90 15 39 0.0329425
r91 9 37 0.0329425
r92 8 39 0.0329425
r93 4 37 0.0329425
r94 1 45 0.0120155
r95 1 22 0.0329425
r96 1 27 0.0329425
r97 1 44 0.0329425
r98 1 40 0.0120155
r99 1 14 0.0329425
r100 1 19 0.0329425
r101 1 32 0.034
r102 1 31 0.12325
r103 1 27 0.085
r104 1 22 0.2465
r105 1 18 0.1955
r106 1 19 0.0595
r107 1 14 0.272
r108 1 15 0.1445
r109 1 8 0.051
r110 1 9 0.136
r111 1 4 0.1955
.ends

.subckt PM_LSGCPX2_N$210 3 4 6 9 15 17 19 22 24 26 29 34 42 44 46 47 52 54 58
c85 58 0 0.0150039f
c86 54 0 0.141505f
c87 52 0 0.231492f
c88 47 0 0.138583f
c89 46 0 0.0688662f
c90 42 0 0.0636506f
c91 34 0 0.0761977f
c92 29 0 0.0774312f
c93 26 0 0.0640118f
c94 24 0 0.0383745f
c95 22 0 0.0626264f
c96 19 0 0.195835f
c97 17 0 0.151101f
c98 15 0 0.484451f
c99 9 0 0.266951f
c100 6 0 0.179796f
c101 4 0 0.0915409f
r102 52 58 0.0610243
r103 47 55 15.2843
r104 47 54 15.2843
r105 46 49 0.0708333
r106 46 47 7
r107 40 42 0.0779167
r108 30 44 0.00935391
r109 29 49 0.0216719
r110 29 30 0.31875
r111 27 44 0.0359928
r112 27 58 0.120417
r113 26 44 0.0359928
r114 25 42 0.00499195
r115 25 26 0.269167
r116 24 40 0.00499195
r117 23 34 0.0216719
r118 23 24 0.134583
r119 22 34 0.0216719
r120 22 39 0.255
r121 19 20 39.8089
r122 17 18 25
r123 15 55 139.583
r124 11 20 2.03499
r125 11 54 50
r126 7 18 1.46822
r127 7 9 54.1667
r128 6 19 2.03499
r129 5 17 1.46822
r130 5 6 64.5833
r131 4 39 0.0519666
r132 3 34 0.0425
.ends

.subckt PM_LSGCPX2_D_GND 1 7 8 9 10 11 15 31 34 38 40 50 53
c66 53 0 0.482114f
c67 50 0 0.512032f
c68 41 0 0.0701213f
c69 40 0 0.639837f
c70 38 0 0.0288818f
c71 35 0 0.0701213f
c72 34 0 0.506796f
c73 31 0 0.0738946f
c74 15 0 0.0904997f
c75 11 0 0.164221f
c76 10 0 0.151533f
c77 9 0 0.144315f
c78 8 0 0.120152f
c79 1 0 0.737835f
r80 40 41 0.0329425
r81 39 41 0.0329425
r82 34 35 0.0329425
r83 33 35 0.0329425
r84 16 41 0.0120155
r85 15 31 0.0216719
r86 15 38 0.247917
r87 12 35 0.0120155
r88 11 24 0.179444
r89 10 20 0.155833
r90 9 16 0.146389
r91 8 38 0.0519666
r92 8 12 0.146389
r93 7 31 0.0425
r94 1 24 0.0120155
r95 1 53 0.0329425
r96 1 57 0.0329425
r97 1 20 0.0120155
r98 1 50 0.0329425
r99 1 54 0.0329425
r100 1 57 0.23375
r101 1 53 0.221
r102 1 54 0.221
r103 1 50 0.2465
r104 1 39 0.204
r105 1 40 0.1275
r106 1 33 0.17
r107 1 34 0.1615
.ends

.subckt PM_LSGCPX2_nose 2 3 5 7 9 12 14 15 17 20 22 23 25 28 32 34 35 38 40 42
+ 45 47 55 56 57 59 60 61 63 68 72
c178 72 0 0.0782964f
c179 68 0 0.0470511f
c180 63 0 0.0186814f
c181 61 0 0.052814f
c182 60 0 0.159558f
c183 59 0 0.0210086f
c184 57 0 0.0245644f
c185 56 0 0.107262f
c186 55 0 0.137484f
c187 47 0 0.181008f
c188 45 0 0.0911899f
c189 42 0 0.097185f
c190 40 0 0.0265599f
c191 38 0 0.103205f
c192 35 0 0.121525f
c193 34 0 0.0561513f
c194 32 0 0.130557f
c195 28 0 0.268871f
c196 25 0 0.200983f
c197 23 0 0.0666172f
c198 22 0 0.286214f
c199 20 0 0.38886f
c200 17 0 0.266554f
c201 15 0 0.156526f
c202 14 0 0.121419f
c203 12 0 0.402924f
c204 9 0 0.143796f
c205 7 0 0.387122f
c206 3 0 0.24576f
c207 2 0 0.0869543f
r208 68 69 7
r209 63 65 0.06375
r210 60 76 4.31034
r211 60 74 7.18391
r212 59 61 0.0519666
r213 59 60 7
r214 54 57 0.0519666
r215 54 56 0.0519666
r216 54 55 7
r217 48 65 0.00499195
r218 47 68 0.0519666
r219 47 48 0.602083
r220 45 63 0.00499195
r221 45 57 0.502917
r222 44 52 0.00836008
r223 44 61 0.2975
r224 42 52 0.0791065
r225 41 51 0.0138203
r226 41 42 0.255
r227 40 56 0.5525
r228 38 72 0.0566888
r229 37 40 0.0474919
r230 37 38 0.325833
r231 35 36 21.8531
r232 30 32 25
r233 26 36 0.866705
r234 26 28 66.6667
r235 24 35 0.866705
r236 24 25 64.5833
r237 22 25 13.9682
r238 22 23 75
r239 18 34 10.5861
r240 18 20 97.9167
r241 17 34 10.5861
r242 16 23 13.9682
r243 16 17 87.5
r244 15 69 15.2843
r245 14 34 2.75115
r246 14 15 39.5833
r247 10 76 5.9693
r248 10 12 100
r249 9 32 1.46822
r250 8 55 15.2843
r251 8 9 45.8333
r252 7 55 15.2843
r253 6 74 5.9693
r254 6 7 129.167
r255 3 30 1.46822
r256 3 5 45.8333
r257 2 51 0.131739
.ends

.subckt PM_LSGCPX2_N$219 2 7 9 12 16 18 20 26 28 31 33 38 40 41 47
c80 47 0 0.0214697f
c81 41 0 0.219378f
c82 40 0 0.0744848f
c83 38 0 0.0724097f
c84 33 0 0.0224408f
c85 31 0 0.164874f
c86 28 0 0.0257976f
c87 26 0 0.141816f
c88 20 0 0.0502692f
c89 18 0 0.0570368f
c90 16 0 0.144804f
c91 12 0 0.232583f
c92 9 0 0.596999f
c93 2 0 0.142138f
r94 38 47 0.0566888
r95 31 44 15.219
r96 31 43 15.219
r97 30 33 0.0519666
r98 30 31 7
r99 26 41 15.2843
r100 26 40 15.2843
r101 25 28 0.0519666
r102 25 26 7
r103 22 47 0.085
r104 20 36 0.0142585
r105 20 33 0.255
r106 18 22 0.0474919
r107 18 28 0.255
r108 14 16 29.1667
r109 12 43 50
r110 9 16 1.46822
r111 9 44 200
r112 7 41 45.8333
r113 3 14 1.46822
r114 3 40 25
r115 2 36 0.153
.ends

.subckt PM_LSGCPX2_cn 2 5 7 8 11 15 16 18 19 20 23 25 27 28 29 30 39 41 45 46 47
c118 47 0 0.254941f
c119 46 0 0.152751f
c120 45 0 0.161788f
c121 39 0 0.165665f
c122 30 0 0.0610127f
c123 29 0 0.017742f
c124 28 0 0.0377844f
c125 27 0 0.124348f
c126 25 0 0.214445f
c127 23 0 0.157972f
c128 20 0 0.0961475f
c129 19 0 0.100417f
c130 18 0 0.419587f
c131 16 0 0.0696945f
c132 15 0 0.164573f
c133 11 0 0.185992f
c134 8 0 0.120958f
c135 7 0 0.27609f
c136 5 0 0.713615f
r137 45 47 15.2843
r138 45 46 7
r139 41 46 0.123069
r140 39 51 15.2843
r141 38 39 7
r142 32 33 7
r143 30 32 0.0395547
r144 29 30 0.151156
r145 28 34 0.0089958
r146 27 38 0.0524485
r147 27 28 0.198333
r148 26 29 0.034
r149 25 34 0.219811
r150 25 26 0.595
r151 21 23 25
r152 20 33 29.2398
r153 19 20 27.7909
r154 18 51 145.833
r155 15 18 13.9682
r156 15 16 33.3333
r157 13 16 13.9682
r158 13 47 87.5
r159 9 19 17.9291
r160 9 11 37.5
r161 8 23 1.46822
r162 7 33 15.411
r163 7 8 35.4167
r164 3 21 1.46822
r165 3 5 222.917
r166 2 38 0.124853
.ends

.subckt PM_LSGCPX2_ci 2 5 9 15 18 21 22 23 26 28 29 30 33 34 37 39 41 43 48 51
+ 53 54 58 66 73 74
c164 74 0 0.249165f
c165 73 0 0.113968f
c166 66 0 0.0699985f
c167 58 0 0.145069f
c168 54 0 0.031038f
c169 53 0 0.0139484f
c170 51 0 0.162697f
c171 48 0 0.159824f
c172 43 0 0.0634719f
c173 41 0 0.0183208f
c174 39 0 0.014263f
c175 37 0 0.0192233f
c176 34 0 0.0810807f
c177 33 0 0.0782816f
c178 30 0 0.0704447f
c179 29 0 0.0752877f
c180 28 0 0.216213f
c181 26 0 0.212076f
c182 23 0 0.343916f
c183 22 0 0.0663417f
c184 21 0 0.52926f
c185 18 0 0.248767f
c186 9 0 0.572906f
c187 5 0 0.229432f
c188 2 0 0.0829388f
r189 66 78 0.04675
r190 58 77 15.2843
r191 58 76 15.2843
r192 57 59 0.0519666
r193 57 58 7
r194 54 57 0.0141667
r195 51 74 15.219
r196 51 73 15.219
r197 50 53 0.0519666
r198 50 51 7
r199 48 71 15.2843
r200 47 48 7
r201 43 44 7
r202 41 43 0.179297
r203 40 47 0.129375
r204 40 41 0.17
r205 38 60 0.0216719
r206 38 39 0.085
r207 37 78 0.025958
r208 36 37 0.085
r209 35 54 0.0216719
r210 34 39 0.0474919
r211 34 35 0.2125
r212 33 59 0.410833
r213 30 36 0.0474919
r214 30 53 0.255
r215 29 47 0.0539119
r216 28 33 0.0474919
r217 28 29 1.0625
r218 24 26 50
r219 23 44 35.1852
r220 22 23 33.3333
r221 21 26 1.46822
r222 21 77 185.417
r223 18 76 50
r224 15 74 45.8333
r225 11 24 1.46822
r226 11 73 35.4167
r227 9 71 170.833
r228 3 22 14.7074
r229 3 5 41.6667
r230 2 60 0.0708333
.ends

.subckt PM_LSGCPX2_GCLK 2 4 5 8 10 13 15 17 18 23 27 31 43
c77 43 0 0.0711606f
c78 27 0 0.296628f
c79 23 0 0.101453f
c80 18 0 0.164399f
c81 17 0 0.176738f
c82 15 0 0.0180994f
c83 13 0 0.168883f
c84 10 0 0.183309f
c85 8 0 0.034568f
c86 5 0 0.0949336f
c87 4 0 0.213061f
r88 31 43 0.02125
r89 25 27 0.0107595
r90 21 23 0.120417
r91 18 39 15.2843
r92 17 18 7
r93 13 36 6.98324
r94 12 15 0.0519666
r95 12 13 7
r96 10 23 0.00499195
r97 9 25 0.0163768
r98 9 10 0.31875
r99 8 43 0.025958
r100 7 21 0.00499195
r101 7 8 0.198333
r102 5 25 0.123476
r103 5 15 0.772083
r104 4 36 6.30757
r105 4 39 77.0833
r106 2 17 0.101019
.ends

.subckt PM_LSGCPX2_nose2 2 5 7 8 10 12 13 15 17 19 20 21 23 26 28 29 30 33 34 37
+ 39 42 44 45 49 60 65 71
c107 71 0 0.200651f
c108 65 0 0.221613f
c109 49 0 0.101518f
c110 45 0 0.0305863f
c111 44 0 0.0291107f
c112 42 0 0.219783f
c113 39 0 0.0264636f
c114 37 0 0.154909f
c115 34 0 0.121787f
c116 33 0 0.0241206f
c117 30 0 0.00829368f
c118 29 0 0.0231803f
c119 28 0 0.0086425f
c120 26 0 0.042388f
c121 23 0 0.0650979f
c122 21 0 0.0451171f
c123 20 0 0.0651412f
c124 19 0 0.11018f
c125 15 0 0.223249f
c126 13 0 0.232157f
c127 12 0 0.252239f
c128 8 0 0.232265f
c129 5 0 0.251843f
c130 2 0 0.37987f
r131 48 71 11.1111
r132 47 48 7
r133 45 47 0.0588915
r134 41 44 0.0519666
r135 41 42 7
r136 37 65 15.2843
r137 36 39 0.0519666
r138 36 37 7
r139 34 60 0.127093
r140 33 34 0.151156
r141 29 49 0.0216719
r142 29 30 0.141667
r143 27 30 0.0474919
r144 27 28 0.141667
r145 26 33 0.0500053
r146 25 45 0.0201085
r147 25 26 0.14875
r148 23 28 0.0474919
r149 23 44 0.255
r150 21 45 0.0375457
r151 21 39 0.262083
r152 18 42 34.8752
r153 18 19 13.8758
r154 15 17 41.6667
r155 14 20 2.75115
r156 13 15 13.9682
r157 13 14 50
r158 12 20 10.5861
r159 11 71 6.3741
r160 11 12 81.25
r161 8 20 10.5861
r162 8 10 41.6667
r163 5 42 16.9364
r164 5 7 45.8333
r165 3 19 14.7074
r166 3 65 75
r167 2 49 0.0188889
.ends

.subckt PM_LSGCPX2_SE 2 3 4 5 9 11 13 15 23
c40 23 0 0.300453f
c41 15 0 0.0199382f
c42 11 0 0.16893f
c43 9 0 0.4226f
c44 5 0 0.15386f
c45 4 0 0.0977785f
c46 3 0 0.349636f
c47 2 0 0.606091f
r48 18 23 15.2678
r49 18 20 14.2857
r50 15 18 7
r51 11 13 25
r52 7 9 108.333
r53 5 7 13.9682
r54 5 23 27.0833
r55 3 11 13.9682
r56 3 4 87.5
r57 2 20 8.22096
r58 1 4 13.9682
r59 1 2 172.917
.ends

.subckt PM_LSGCPX2_E 1 3 5 6 8 12 15
c49 15 0 0.0535223f
c50 12 0 0.192634f
c51 8 0 0.463244f
c52 6 0 0.229222f
c53 5 0 0.0948604f
c54 1 0 0.152985f
r55 17 18 7
r56 15 17 0.124718
r57 10 12 37.5
r58 6 18 15.219
r59 6 8 131.25
r60 5 18 22.719
r61 4 12 1.46822
r62 4 5 31.25
r63 1 10 1.46822
r64 1 3 25
.ends

.subckt PM_LSGCPX2_CLK 1 3 4 5 8 11 13 14 16 18 19 21 23 24 25 36 37 39 41 43
c104 43 0 0.0528323f
c105 41 0 0.025533f
c106 37 0 0.0847414f
c107 36 0 0.136456f
c108 25 0 0.0545698f
c109 24 0 0.0569638f
c110 23 0 0.338384f
c111 19 0 0.524387f
c112 16 0 0.223135f
c113 14 0 0.321624f
c114 13 0 0.251204f
c115 11 0 0.262064f
c116 8 0 0.403378f
c117 5 0 0.0682179f
c118 4 0 0.0880975f
c119 1 0 0.228422f
r120 41 43 0.0519666
r121 41 42 7
r122 37 39 0.113032
r123 36 49 15.2843
r124 36 48 15.2843
r125 35 37 0.00904255
r126 35 36 7
r127 33 43 0.332917
r128 26 37 0.0234387
r129 25 33 0.063519
r130 25 26 0.2125
r131 19 42 56.886
r132 19 21 41.6667
r133 16 18 41.6667
r134 15 24 10.5861
r135 14 16 13.9682
r136 14 15 79.1667
r137 13 24 2.75115
r138 12 23 14.6202
r139 12 13 81.25
r140 11 23 14.6202
r141 11 49 89.5833
r142 8 48 104.167
r143 4 24 10.5861
r144 4 5 33.3333
r145 1 5 13.9682
r146 1 3 41.6667
.ends

